US05449810
Into a three-necked flask equipped with a dropping funnel, a three-way cock and a therometer, was placed 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide (12.2 g, 27 mmols), followed by adding tetrahydrofuran (200 ml), suspending, stirring the suspension under ice cooling till the liquid temperature reached 10° C., adding to the reaction mixture, potassium t-butoxide (30 g, 27 mmols), elevating the temperature up to room temperature under ice cooling for one hour, stirring the mixture for one hour, dropwise adding a tetrahydrofuran (50 ml) solution of 4-(4-cyanophenyl)cyclohexanone (5.0 g, 25 mmols) from the dropping funnel over 30 minutes. The reaction mixture was stirred for 5 hours after completion of the dropwise addition, followed by adding ether (100 ml), allowing the mixture to stand, filtering off deposited insoluble substance, concentrating the filtrate under reduced pressure, and isolating and purifying the resulting pale brown oil by means of silica gel column chromatography, to obtain 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-cyanophenyl)cyclohexane (4.1 g, 14 mmols).

reactant | 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide | 27 mmols, 12.2 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 27 mmols, 30 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 4-(4-cyanophenyl)cyclohexanone | 25 mmols, 5.0 g | C(#N)C1=CC=C(C=C1)C1CCC(CC1)=O | C13H13NO
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-cyanophenyl)cyclohexane | 14 mmols, 4.1 g | O1C(OCCC1)CC=C1CCC(CC1)C1=CC=C(C=C1)C#N | C19H23NO2
